US08912330B2
6-[1-(piperidin-4-yl)-1H-pyrazol-4-yl]-1-{[4-(trifluoromethoxy)benzyl]oxy}-1H-pyrrolo[3,2-b]pyridine
The entitled compound is prepared from tert-butyl 4-[4-(1-hydroxy-1H-pyrrolo[3,2-b]pyridin-6-yl)-1H-pyrazol-1-yl]piperidine-1-carboxylate and 1-(bromomethyl)-4-(trifluoromethoxy)benzene as described in the last 2 steps of Example 18.

reactant | tert-butyl 4-[4-(1-hydroxy-1H-pyrrolo[3,2-b]pyridin-6-yl)-1H-pyrazol-1-yl]piperidine-1-carboxylate | ON1C=CC2=NC=C(C=C21)C=2C=NN(C2)C2CCN(CC2)C(=O)OC(C)(C)C | C20H25N5O3
reactant | 1-(bromomethyl)-4-(trifluoromethoxy)benzene | BrCC1=CC=C(C=C1)OC(F)(F)F | C8H6BrF3O
product | 6-[1-(piperidin-4-yl)-1H-pyrazol-4-yl]-1-{[4-(trifluoromethoxy)benzyl]oxy}-1H-pyrrolo[3,2-b]pyridine | N1CCC(CC1)N1N=CC(=C1)C=1C=C2C(=NC1)C=CN2OCC2=CC=C(C=C2)OC(F)(F)F | C23H22F3N5O2
